US04933355
Ethyl 2-dimethylaminothiazol-4-ylglyoxylate
A mixture comprising 10 ml of a 2M benzene solution of dimethylamine, 1.3 g of ethyl 2-chlorothiazol-4-ylglyoxylate, and 5 ml of tetrahydrofuran was stirred for 3 hours at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, using as eluent a 9:1 by volume mixture of benzene and ethyl acetate, giving the title compound as a pale yellow oil.

reactant | benzene | 2M | C1=CC=CC=C1 | C6H6
reactant | dimethylamine | CNC | C2H7N
reactant | ethyl 2-chlorothiazol-4-ylglyoxylate | 1.3 g | ClC=1SC=C(N1)C(C(=O)OCC)=O | C7H6ClNO3S
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 2-dimethylaminothiazol-4-ylglyoxylate | CN(C=1SC=C(N1)C(C(=O)OCC)=O)C | C9H12N2O3S
